US06509328B1
3-(2-Imidazol-1-yl-thiazol-4-yl)-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from ethyl 2-imidazol-1-yl-thiazole-4-carboxylate [CAS-No. 256420-32-3] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as an orange oil (12.0 g).

reactant | ethyl 2-imidazol-1-yl-thiazole-4-carboxylate | N1(C=NC=C1)C=1SC=C(N1)C(=O)OCC | C9H9N3O2S
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-(2-Imidazol-1-yl-thiazol-4-yl)-3-oxo-propionic Acid tert.-Butyl Ester | 12.0 g | C(C)(C)(C)OC(CC(=O)C=1N=C(SC1)N1C=NC=C1)=O | C13H15N3O3S
